US08859777B2
Preparation of 1-tert-Butyl-3-{3-[4-fluoro-1-(2-phenoxyethyl)-piperidin-4-yl]phenyl}-urea
The title compound was prepared from the reaction of 4-(3-aminophenyl)-1-(2-phenoxyethyl) 4-fluoropiperidine dihydrochloride with tert-butylisocyanate in the presence of excess diisopropylethylamine as described in Example 19, with the exception that hydrochloride salt formation was not carried out. The desired material was obtained in 24% yield as a white solid.

reactant | 4-(3-aminophenyl)-1-(2-phenoxyethyl) 4-fluoropiperidine dihydrochloride | Cl.Cl.NC=1C=C(C=CC1)C1(CCN(CC1)CCOC1=CC=CC=C1)F
reactant | tert-butylisocyanate | C(C)(C)(C)N=C=O | C5H9NO
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
product | 1-tert-Butyl-3-{3-[4-fluoro-1-(2-phenoxyethyl)-piperidin-4-yl]phenyl}-urea | 24% yield | C(C)(C)(C)NC(=O)NC1=CC(=CC=C1)C1(CCN(CC1)CCOC1=CC=CC=C1)F | C24H32FN3O2
